US07291631B2
To a solution of (3-phenoxy-pyridin-2-yl)-methanol (0.130 g, 0.646 mmol) in CH2Cl2 (7 mL) was added MnO2 (10 microns, 90+%) (0.645 g, 7.42 mmol) and the resulting black mixture stirred for 24 h. The mixture was filtered through celite and washed with CH2Cl2. The solution was concentrated to give 3-phenoxy-pyridine-2-carbaldehyde as a yellow oil (0.085 g, 67%). 1H NMR (CDCl3) δ 6.97-7.43 (m, 7H), 8.50 (dd, 1H, J=2.8, 1.2 Hz), 10.42 (s, 1H).

reactant | (3-phenoxy-pyridin-2-yl)-methanol | 0.646 mmol, 0.130 g | O(C1=CC=CC=C1)C=1C(=NC=CC1)CO | C12H11NO2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 7.42 mmol, 0.645 g | O=[Mn]=O
product | 3-phenoxy-pyridine-2-carbaldehyde | 0.085 g, 67% | O(C1=CC=CC=C1)C=1C(=NC=CC1)C=O | C12H9NO2
